US07951805B2
SYNTHESIS OF 6-{4-[METHYL(2-TRIFLUOROMETHYLPHENYL)AMINO]PIPERIDIN-1-YL}PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
A mixture of methylpiperidin-4-yl-(2-trifluoromethylphenyl)amine (0.130 g, 0.500 mmol), 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide (0.113 g, 0.500 mmol), K2CO3 (0.100 g, 0.720 mmol) and n-Bu4NI (10 mg) in dioxane (10 mL) was heated to reflux overnight, then concentrated and purified by column chromatography to afford the title compound in 60% yield (0.147 g). 1H NMR (300 MHz, CDCl3) δ 8.30-8.26 (m, 1H), 8.10-7.95 (m, 1H), 7.64 (d, J=7.8 Hz, 1H), 7.55-7.34 (m, 2H), 7.28 (d, J=7.8 Hz, 1H), 4.51 (s, br, 2H), 3.83-3.28 (m, 5H), 2.67 (s, 3H), 2.07-1.98 (m, 2H), 1.77 (s, br, 2H), 1.51-1.44 (m, 2H), 0.68-0.66 (m, 1H), 0.47-0.38 (m, 2H), 0.07-0.03 (m, 2H). MS (ES+) m/z 448.4 (M+1).

reactant | methylpiperidin-4-yl-(2-trifluoromethylphenyl)amine | 0.500 mmol, 0.130 g | CN(C1=C(C=CC=C1)C(F)(F)F)C1CCNCC1 | C13H17F3N2
reactant | 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | 0.500 mmol, 0.113 g | C1(CC1)CCNC(=O)C=1N=NC(=CC1)Cl | C10H12ClN3O
reactant | K2CO3 | 0.720 mmol, 0.100 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | n-Bu4NI | 10 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 6-{4-[METHYL(2-TRIFLUOROMETHYLPHENYL)AMINO]PIPERIDIN-1-YL}PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | 60% yield | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)N(C1=C(C=CC=C1)C(F)(F)F)C | C23H28F3N5O
